US05329042
(3S, 4R)-3-methoxycarbonyl-4-ethylcyclopentanone
24 g of potassium permanganate is dissolved in 15 ml of water, and 8.08 g of (1S, 6R)-6-ethyl-1-methoxycarbonylcyclohex-3-ene was added to the solution over a period of 20 minutes. The mixture was stirred for 4 hours at room temperature, and then 6 g of potassium permanganate was further added, followed by 1 hour of stirring. Methanol was added to the mixture, and the insoluble material was filtered off. Concentrated hydrochloric acid was added to the filtrate such as to adjust the pH thereof at 2, and the filtrate was extracted with a mixed solvent of ethyl acetate - tetrahydrofuran (1:1). After concentration, to the residue were added 50 ml of acetic anhydride and 2.5 g of sodium acetate, and the mixture was refluxed for 1.5 hours. The mixture was cooled down to room temperature, and a mixed solvent of hexane - ether was added thereto. The insoluble material was filtered off, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography (ether:hexane=1:2), thereby obtaining 3.99 g of titled compound.

reactant | potassium permanganate | 24 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | (1S, 6R)-6-ethyl-1-methoxycarbonylcyclohex-3-ene | 8.08 g | C(C)[C@@H]1CC=CC[C@@H]1C(=O)OC | C10H16O2
reactant | potassium permanganate | 6 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | Methanol | CO | CH4O
solvent | water | 15 ml | O | H2O
product | (3S, 4R)-3-methoxycarbonyl-4-ethylcyclopentanone | 3.99 g | COC(=O)[C@H]1CC(C[C@H]1CC)=O | C9H14O3
